US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-4-ylamide
The title compound was prepared from 4-aminopyridine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 290/292 (MH+); HPLC Rf: 4.63 min.; HPLC purity: 99%.

reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid pyridin-4-ylamide | N1=CC=C(C=C1)NC(=O)C1=CC2=NC=CC(=C2S1)Cl | C13H8ClN3OS
